US07714010B2
2-Benzenesulfinylmethyl-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
To a solution of thiophenol (70 μl) in CH2Cl2 (4 ml) is added NaH (43 mg; 1.08 mmol) and the resulting suspension is stirred for 5 min at RT. Then freshly prepared 2-chloromethyl-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (265 mg) dissolved in CH2Cl2 (5 ml) is added and the mixture is stirred at 40° C. for 20 h. After cooling to 0° C. 3-chloro-benzenecarboperoxoic acid (186 mg; 0.83 mmol) is added and stirring is continued for another 3 h. After completion of the reaction the mixture is concentrated in vacuo and purified by NP-HPLC eluting with CH2Cl2/MeOH to give the desired compound (5.8 mg).

reactant | thiophenol | 70 μl | C1(=CC=CC=C1)S | C6H6S
reactant | NaH | 1.08 mmol, 43 mg | [H-].[Na+]
reactant | 2-chloromethyl-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 265 mg | ClCC1=NC=2C(=CC=3C(C(N(C3C2)CCCCC)=O)(C)C)N1 | C17H22ClN3O
reactant | 3-chloro-benzenecarboperoxoic acid | 0.83 mmol, 186 mg | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-Benzenesulfinylmethyl-7,7-dimethyl-5-pentyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 5.8 mg | C1(=CC=CC=C1)S(=O)CC1=NC=2C(=CC=3C(C(N(C3C2)CCCCC)=O)(C)C)N1 | C23H27N3O2S
